US06326369B1
A mixture of 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene (1.50 g), 2-quinolinol (621 mg), and potassium carbonate (987 mg) in DMF (15 ml) was stirred at room temperature for 12 hr. After being stirred at 60° C. for 6 hr, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was diluted with dilsopropylether. The crystals were collected by filtration and recrystallized from hexane-ethyl acetate to obtain 2-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]quinoline (680 mg).

reactant | 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene | 1.50 g | ICCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C17H25IO4
reactant | 2-quinolinol | 621 mg | N1=C(C=CC2=CC=CC=C12)O | C9H7NO
reactant | potassium carbonate | 987 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]quinoline | 680 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=NC1=CC=CC=C1C=C2)OC)OC)OC | C26H31NO5
